US04045433
0.16 g. (6.85 mmoles) of metallic sodium are dissolved in 2 ml. of absolute methanol, and a suspension of 0.9 g. (2.86 mmoles) of 4-carbamoyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one in 50 ml. of absolute methanol is added to the solution at room temperature, with stirring. The suspension is stirred at room temperature for 30 minutes, and then evaporated under reduced pressure. The oily residue is dissolved in 9 ml. of dimethyl formamide, and 0.48 ml. of methyl iodide are added to the stirred solution at room temperature. The mixture is stirred for additional 2 hours, then diluted with 50 ml. of water and extracted with 3 × 10 ml. of chloroform. The chloroform extracts are combined, dried over sodium sulfate, filtered, and the filtrate is evaporated under reduced pressure, to obtain 0.85 g. of a residue, which is recrystallized from ethanol. 0.75 g. (79.5 %) of 1-methyl-4-carbamoyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one are obtained; m.p.: 217°-220° C.

reactant | sodium | 6.85 mmoles | [Na] | Na
reactant | 4-carbamoyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 2.86 mmoles | C(N)(=O)N1CC(NC2=C(C1C1=CC=CC=C1)C=C(C=C2)Cl)=O | C16H14ClN3O2
reactant | methanol | CO | CH4O
product | 1-methyl-4-carbamoyl-5-phenyl-7-chloro-1,3,4,5-tetrahydro-2H-1,4-benzodiazepine-2-one | 79.5 % | CN1C(CN(C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)C(N)=O)=O | C17H16ClN3O2
